US05352684
K. 3-Acetyl-5-tert-butoxycarbonyl-1,4-dihydro-4-(2,3-dichlorophenyl) -2-(4-chlorobutyl)-6-methyl-pyridine
25 g (70 mmol) 6-(2,3-dichlorophenyl-methylene)-1-chloro-5,7-octanedione and 22 g (0.14 mol) tert-butyl β-amino-crotonate are boiled under reflux in 200 ml 1-butanol for 6 h. The mixture is concentrated and the residue is prepurified by chromatography with toluene/acetone=8/2. The product thus obtained is chromatographed again over silica gel with toluene/acetone=99/1. The title compound is obtained as a yellow oil. Yield: 5.8 g (18%).

reactant | 6-(2,3-dichlorophenyl-methylene)-1-chloro-5,7-octanedione | 70 mmol, 25 g | ClC1=C(C=CC=C1Cl)C=C(C(CCCCCl)=O)C(C)=O | C15H15Cl3O2
reactant | tert-butyl β-amino-crotonate | 0.14 mol, 22 g | N\C(=C/C(=O)OC(C)(C)C)\C | C8H15NO2
solvent | 1-butanol | 200 ml | C(CCC)O | C4H10O
product | 3-Acetyl-5-tert-butoxycarbonyl-1,4-dihydro-4-(2,3-dichlorophenyl) -2-(4-chlorobutyl)-6-methyl-pyridine | C(C)(=O)C1=C(NC(=C(C1C1=C(C(=CC=C1)Cl)Cl)C(=O)OC(C)(C)C)C)CCCCCl | C23H28Cl3NO3
